US06914063B2
Imidazo[1,2-α]pyrazine (90 mg, 0.76 mmol) and sodium acetate (75 mg, 0.91 mmol) were dissolved in methanol (2 ml) saturated with potassium bromide and cooled to −10° C. before dropwise addition of bromine (121 mg, 0.76 mmol) over 5 min. On complete addition the mixture was quenched by addition of 1N sodium sulfite solution (2 ml) and the solvent removed in vacuo. The residue was dissolved in water (15 ml) and saturated sodium hydrogencarbonate solution (15 ml) and extracted with ethyl acetate (2×40 ml). The organics were combined then washed with brine (40 ml), dried over anhydrous sodium sulfate and evaporated to give 3-bromoimidazo[1,2-α]pyrazine (150 mg, 100%) as a white crystalline solid: δH (400 MHz, CDCl3) 7.80 (1H, s), 6.87 (1H, d, J 7), 7.71 (1H, s), 8.27 (1H, d, J 7).

reactant | Imidazo[1,2-α]pyrazine | 0.76 mmol, 90 mg | N=1C=CN2C1C=NC=C2 | C6H5N3
reactant | sodium acetate | 0.91 mmol, 75 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.76 mmol, 121 mg | BrBr | Br2
solvent | methanol | 2 ml | CO | CH4O
solvent | potassium bromide | [Br-].[K+]
product | 3-bromoimidazo[1,2-α]pyrazine | 150 mg, 100% | BrC1=CN=C2N1C=CN=C2 | C6H4BrN3
